US09034891B2
Synthesis of 1-(2,8-dimethyl-1-oxa-3,8-diazaspiro[4.5]dec-3-yl)-3-(1H-indol-3-yl)-propan-1-one (AF711)
To a stirred solution of 2,8-dimethyl-1-oxa-3,8-diaza-spiro[4.5]decane (991.2 mg, 5.8 mmol) in dichloromethane (110 ml) at room temperature were added dicyclohexylcarbodiimide (1.61 g, 7.8 mmol) and 3-indolepropionic acid (1.43 g, 7.6 mmol). The resulting solution was stirred at room temperature overnight. A white solid precipitated during the reaction. After filtration the solvent was evaporated and the crude product was purified by flash chromatography (silica, CH2Cl2/EtOH/NH4OH 90/10/1). After evaporation and drying under vacuum, AF711 (716 mg, 99.6% chemical purity) was obtained as a white solid. 1H NMR (CDCl3, 500 MHz) δ 8.50, 8.46 (2 br s, 1H, NH indole), 7.61 (d, J=7.55 Hz, 1H, CHC arom), 7.33 (d, J=7.85 Hz, 1H, CHCNH arom), 7.18 (app t, J=7.24, 7.85 Hz, 1H, CHCHC arom), 7.11 (app t, J=7.55, 7.24 Hz, 1H, CHCHC arom), 7.02 (d, J=1.86 Hz, 1H, CHNH indole), 5.32, 5.15 (2q, J=5.09 and J=5.16 Hz, 1H, CHCH3), 3.99, 3.22 (2d, J=11 and J=9.5 Hz, 1H, CHHNCO), 3.19 (m, 1H), 3.13-3.08 (m, 1H), 3.03, 2.97 (2d, J=9.5 and J=11 Hz, 1H, CHHNCO), 2.72-2.60 (m, 2H), 2.51-2.20 (m, 4H), 2.25, 2.23 (2s, 3H, NCH3), 1.78-1.64 (m, 2H), 1.43, 1.31 (2d, J=5.15 and J=5.15 Hz, 3H, CH3CH), 1.39, 1.28 (2m, 1H), 1.14 (m, 1H) ppm; 13C NMR (CDCl3, 500 MHz) δ 170.50, 169.85 (C), 136.30, 136.25 (C), 127.07, 126.99 (C), 121.93 (CH), 121.85 (CH), 119.24 (CH), 118.55, 118.52 (CH), 114.73 (C), 111.20, 111.12 (CH), 84.69, 84.06 (CH), 77.98 (C), 54.18 (CH2), 52.18 (CH2), 51.86 (CH2), 45.89, 45.83 (CH3), 36.38 (CH2), 34.98 (CH2), 32.99, 32.41 (CH2), 22.70, 20.50 (CH3), 20.96, 20.73 (CH2) ppm.

reactant | 2,8-dimethyl-1-oxa-3,8-diaza-spiro[4.5]decane | 5.8 mmol, 991.2 mg | CC1OC2(CN1)CCN(CC2)C | C9H18N2O
reactant | dicyclohexylcarbodiimide | 7.8 mmol, 1.61 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-indolepropionic acid | 7.6 mmol, 1.43 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 1-(2,8-dimethyl-1-oxa-3,8-diazaspiro[4.5]dec-3-yl)-3-(1H-indol-3-yl)-propan-1-one | CC1OC2(CN1C(CCC1=CNC3=CC=CC=C13)=O)CCN(CC2)C | C20H27N3O2
